US07576215B2
[4-(3-{[(2-METHOXYETHYL)AMINO]METHYL}PHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE
The title compound was prepared from 3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]benzaldehyde and 2-methoxy-ethylamine according to the procedure of Example 66. MS m/z 465.

reactant | 3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]benzaldehyde | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=O)C=CC1)C(F)(F)F | C24H14F3NO2
reactant | 2-methoxy-ethylamine | COCCN | C3H9NO
product | [4-(3-{[(2-METHOXYETHYL)AMINO]METHYL}PHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE | COCCNCC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C27H23F3N2O2
